US05606051
N-Methoxy-N-methyl-1-ethyl-5-methylpyrazole-3-carboxamide
1-Ethyl-5-methylpyrazole-3-carboxylic acid (5.25 g) in dry dichloromethane (100 ml) containing N,N-dimethylformamide (0.26 ml) was cooled in an ice-bath and treated with a solution of oxalyl chloride (3.27 ml) in dichloromethane (25 ml), added dropwise. The mixture was stirred in the cold for 25 min, and then allowed to warm to room temperature, when evolution of a gas was observed. After 10 min the solvent was removed by evaporation in vacuo and toluene was added and removed (×2) to ensure any residual HCl and oxalyl chloride had been removed. The resultant acid chloride was redissolved in dry dichloromethane and then treated with N,O-dimethylhydroxylamine hydrochloride (3.61 g) . The mixture was cooled in an ice-bath and treated with pyridine (6.0 ml), the mixture was then allowed to stir at room temperature for 1.5 h and then diluted with ether (100 ml) and washed with brine. The organic layer was then dried (MgSO4) and evaporated to leave an oil. This was the chromatographed on silica gel, loading in dichloromethane, and eluting with ethyl acetate/hexane mixtures to give, after evaporation of requisite fractions, the hydroxamate (5.2 g) as a solid: νmax (CH2Cl2) 2982, 2937, 1641, 1489, 1445, 1379, and 975 cm-1 ; δ(CDCl3) 1.43 (3H, t, J 7.3 Hz), 2.29 (3H, s), 3.42 (3H, s), 3.76 (3H, s, ), 4.13 (2H, q, J 7.3 Hz), 6.49 (1H, s); (Found m/z 197.1164. C9H15N3O2 requires m/z 197.1164).

reactant | 1-Ethyl-5-methylpyrazole-3-carboxylic acid | 5.25 g | C(C)N1N=C(C=C1C)C(=O)O | C7H10N2O2
reactant | N,N-dimethylformamide | 0.26 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 3.27 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-1-ethyl-5-methylpyrazole-3-carboxamide | CON(C(=O)C1=NN(C(=C1)C)CC)C | C9H15N3O2
